US05206240
Step A: Preparation of 1'-benzoyl-spiro[1,3-benzodithiole-2,4'-piperidine]
500 mgs (3.52 mmol) of 1,2-dimercaptobenzene and 610 mgs (3.00 mmol) of N-benzoyl-4-piperidone were stirred in CH2Cl2 while anhydrous HCl gas was introduced Na2SO4 (2 grams) was added and the mixture stirred 15 hours. The mixture was diluted with CH2Cl2 filtered and washed with H2O, and 10% NaOH. The organics were dried (Na2SO4) and concentrated to a solid (yield 740 mgs).

reactant | 1,2-dimercaptobenzene | 3.52 mmol, 500 mgs | SC1=C(C=CC=C1)S | C6H6S2
reactant | N-benzoyl-4-piperidone | 3.00 mmol, 610 mgs | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=O | C12H13NO2
reactant | HCl | Cl | ClH
reactant | Na2SO4 | 2 grams | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1'-benzoyl-spiro[1,3-benzodithiole-2,4'-piperidine] | C(C1=CC=CC=C1)(=O)N1CCC2(CC1)SC1=C(S2)C=CC=C1 | C18H17NOS2
